US07943607B2
3-[(9-Chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}benzamide
A solution of 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide (300 mg, 0.57 mmol) in acetonitrile (10 mL) was treated with trimethylsilyl iodide (0.404 mL) and stirred at RT under argon for 3 hours. Sodium thiosulphate solution (30 mL) was added to quench the reaction and mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried (MgSO4), filtered and evaporated to give a yellow oil. Purification by column chromatography on silica, eluting with 50-100% ethyl acetate in hexanes, gave the desired compound as a pale yellow solid (230 mg).

reactant | 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 0.57 mmol, 300 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)CC)C=C(C2)O[C@H](COC)C | C26H29ClN4O6
reactant | trimethylsilyl iodide | 0.404 mL | C[Si](C)(C)I | C3H9ISi
reactant | Sodium thiosulphate | 30 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-[(9-Chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}benzamide | 230 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)CC)C=C(C2)O[C@H](CO)C | C25H27ClN4O6
